US08735424B2
A solution of (S)-tert-butyl 1-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-4-yl)piperidin-3-ylcarbamate (1.0 equiv.), 6-(thiazol-2-yl)pyridin-2-yl trifluoromethanesulfonate (1.5 equiv.) and Pd(dppf)Cl2—CH2Cl2 (0.15 equiv.) in 3:1 DME/2M Na2CO3 was heated in a microwave at 100° C. for 20 minutes. Upon cooling, the solution was partitioned between EtOAc and Na2CO3(sat.) washed further with NaCl(sat.), dried over MgSO4, concentrated and purified by RP HPLC. Upon lyophilization, the Boc group was deprotected by treatment with 25% TFA/CH2Cl2, concentrated, purified by RP-HPLC and lyophilized to yield (S)-1-(6-(6-(thiazol-2-yl)pyridin-2-yl)quinolin-4-yl)piperidin-3-amine (40%). LC/MS=388.1 (M+H), LC=2.02 min.

reactant | (S)-tert-butyl 1-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-4-yl)piperidin-3-ylcarbamate | 1.0 equiv. | CC1(OB(OC1(C)C)C=1C=C2C(=CC=NC2=CC1)N1C[C@H](CCC1)NC(OC(C)(C)C)=O)C | C25H36BN3O4
reactant | 6-(thiazol-2-yl)pyridin-2-yl trifluoromethanesulfonate | 1.5 equiv. | FC(S(=O)(=O)OC1=NC(=CC=C1)C=1SC=CN1)(F)F | C9H5F3N2O3S2
catalyst | Pd(dppf)Cl2 CH2Cl2 | 0.15 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | DME | 2M | COCCOC | C4H10O2
product | (S)-1-(6-(6-(thiazol-2-yl)pyridin-2-yl)quinolin-4-yl)piperidin-3-amine | 40% | S1C(=NC=C1)C1=CC=CC(=N1)C=1C=C2C(=CC=NC2=CC1)N1C[C@H](CCC1)N | C22H21N5S
